US07790727B2
3-Difluoromethoxy-N-(4-methoxy-3-piperazin-1-yl-phenyl)-N-methyl-benzene-sulfonamide Hydrochloride
0.3 g (0.584 mmol) 4-{5-[(3-difluoromethoxy-benzenesulfonyl)-methyl-amino]-2-methoxy-phenyl}-piperazine-1-carboxylic acid tert-butyl ester from preparation example 2 were dissolved in 8 mL of ethanol and 0.8 mL of 5 N HCl in isopropanol were added. After stirring for 16 h at room temperature, the solvent was evaporated to yield 0.255 g of title compound.

reactant | 4-{5-[(3-difluoromethoxy-benzenesulfonyl)-methyl-amino]-2-methoxy-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.584 mmol, 0.3 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC(=C1)N(C)S(=O)(=O)C1=CC(=CC=C1)OC(F)F)OC | C24H31F2N3O6S
reactant | HCl | 5 N, 0.8 mL | Cl | ClH
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-Difluoromethoxy-N-(4-methoxy-3-piperazin-1-yl-phenyl)-N-methyl-benzene-sulfonamide Hydrochloride | 0.255 g | Cl.FC(OC=1C=C(C=CC1)S(=O)(=O)N(C)C1=CC(=C(C=C1)OC)N1CCNCC1)F | InChI=1S/C19H23F2N3O4S.ClH/c1-23(29(25,26)16-5-3-4-15(13-16)28-19(20)21)14-6-7-18(27-2)17(12-14)24-10-8-22-9-11-24;/h3-7,12-13,19,22H,8-11H2,1-2H3;1H
